* Spice description of one_x0
* Spice driver version -1460663379
* Date ( dd/mm/yyyy hh:mm:ss ):  8/05/2026 at 14:22:51

* INTERF q vdd vss 


.subckt one_x0 6 3 10 
* NET 3 = vdd
* NET 6 = q
* NET 10 = vss
Mtr_00001 1 11 7 3 sky130_fd_pr__pfet_01v8__model L=0.15U W=0.66U AS=0.1914P AD=0.1914P PS=1.9U PD=1.9U 
R3_1 1 2 15
R3_2 2 3 26
C3_21 2 10 6.42888e-17
C3_22 3 10 6.42888e-17
R2_1 6 7 15
R1_1 11 12 15
R1_2 10 12 169
C1_21 10 10 4.07162e-16
C1_22 12 10 4.07162e-16
.ends one_x0

